US08058299B2
To a mixture of [1-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-piperidin-4-yl]-acetic acid methyl ester (70 mg, 0.117 mmol) in dioxane (3 mL) and water (3 mL) at room temperature was added lithium hydroxide (0.01 g, 0.24 mmol). The mixture was stirred at room temperature for about an hour. The mixture was acidified to pH of about 2 and then blown to dryness. Purification by reversed-phase HPLC gave [1-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-piperidin-4-yl]-acetic acid. LCMS calcd for C30H31F3N4O5 (m/e) 584, obsd 585 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | [1-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-piperidin-4-yl]-acetic acid methyl ester | 0.117 mmol, 70 mg | COC(CC1CCN(CC1)C(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O | C31H33F3N4O5
reactant | lithium hydroxide | 0.24 mmol, 0.01 g | [OH-].[Li+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
product | [1-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-piperidin-4-yl]-acetic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)N1CCC(CC1)CC(=O)O)C(F)(F)F | C30H31F3N4O5
